Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ultracet
 
Attending: ___
 
Chief Complaint:
Palpitations 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old male with possible CVA in ___, 
homelessness, alcohol use disorder, opioid use disorder, and 
atrial fibrillation/atrial flutter presented to ED and admitted 
with recurrent palpitations. 

Of note, the patient has been seen and admitted to ___ 
multiple times within the past few weeks for palpitations and 
RVR. He has been offered elective ablation but he left AMA prior 
to receiving the procedure during his admission from 
___. 

He was most recently admitted on ___ and discharged on ___ with 
plans to follow up with EP as an outpatient. He reportedly then 
presented to ___ ED on the evening of ___ with similar symptoms 
as well as reported left rib fracture for which he was given a 
prescription for Oxycodone. He presented again that evening to 
the ___ ED with palpitations and RVR.

ED course was notable for HR 150 requiring 20mg IV diltiazem in 
addition to home PO metoprolol. ECGs confirmed atrial flutter. 
Other vital signs and labs were unremarkable. 

Upon arrival to the floor, patient confirmed the above history. 
He reported compliance with his medications and abstinence from 
alcohol and drugs.
 
Past Medical History:
CVA in ___
Homelessness
Etoh use disorder
Opioid use disorder with recent overdose
Atrial fibrillation/flutter
Hypertension
Hepatitis C 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Admission Physical Exam: 
VS: T 97.7  BP 117/76  HR 78  RR 16  SpO2 95% RA
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: Irregularly irregular, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no 
rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric
DERM: warm and well perfused, no excoriations or lesions, no 
rashes

==============
Discharge PE:
refused physical exam, moving all extremities well, no 
neurological deficits noted based on visual exam. In no 
distress. Requesting a prescription for oxycodone.

 
Pertinent Results:
===========================================
X-RAY: RIB UNILAT, W/ AP CHEST LEFT ___
===========================================
There is no focal consolidation, pleural effusion or 
pneumothorax the size of the cardiac silhouette is unchanged.  
Unchanged widening of the right acromioclavicular joint.  There 
is a minimally displaced fracture of the left posterior eighth 
rib 

=====
LABS
=====  

___ 07:05AM BLOOD WBC-6.8 RBC-4.08* Hgb-13.2* Hct-39.0* 
MCV-96 MCH-32.4* MCHC-33.8 RDW-13.4 RDWSD-46.3 Plt ___
___ 10:00PM BLOOD WBC-9.7 RBC-4.50* Hgb-14.1 Hct-42.1 
MCV-94 MCH-31.3 MCHC-33.5 RDW-13.3 RDWSD-44.9 Plt ___
___ 05:44AM BLOOD WBC-6.6 RBC-4.25* Hgb-13.5* Hct-40.0 
MCV-94 MCH-31.8 MCHC-33.8 RDW-13.3 RDWSD-45.3 Plt ___
___ 10:00PM BLOOD Neuts-66.4 ___ Monos-5.9 Eos-2.9 
Baso-0.5 Im ___ AbsNeut-6.40* AbsLymp-2.33 AbsMono-0.57 
AbsEos-0.28 AbsBaso-0.05
___ 10:00PM BLOOD ___ PTT-38.1* ___
___ 05:44AM BLOOD ___ PTT-31.5 ___
___ 10:00PM BLOOD Glucose-195* UreaN-15 Creat-0.6 Na-140 
K-3.8 Cl-103 HCO3-26 AnGap-11
___ 05:44AM BLOOD Glucose-121* UreaN-17 Creat-0.5 Na-144 
K-3.5 Cl-105 HCO3-27 AnGap-12
___ 10:00PM BLOOD ALT-23 AST-36 AlkPhos-81 TotBili-0.3
___ 10:00PM BLOOD Albumin-4.3 Calcium-9.6 Phos-3.3 Mg-1.8
___ 05:44AM BLOOD Calcium-9.1 Phos-3.7 Mg-1.___ with known Aflutter re-admitted ___ with palpitations 
after leaving hospital AMA. Also noted to have left posterior 
8th rib fracture s/p recent fall on ice.  

# Atrial Flutter: Multiple recent admissions for same with 
symptoms of palpitations. Left AMA, went to ___ ED and later 
re-presented here. Questionable medication compliance. 
- Metoprolol Succinate discontinued due to several pauses on 
telemetry
- Continue Apixaban 5mg BID
- patient left AMA when he found out procedure might be later in 
day or even potentially pushed until ___. RN at bedside with 
myself and said we would like him to stay, patient refused. IV 
taken out. Quick discharge letter (as he wouldn't wait for 
formal discharge instructions to be done) giving explaining that 
he needs to stop metoprolol due to pauses on his telemetry, and 
continue apixaban. Told him that EP would contact him (telephone 
# verified) and that an ablation and possible PPM would be 
scheduled as an outpatient.

# Polysubstance abuse: Including alcohol and intranasal heroin 
with recent overdose. Patient denies alcohol use since ___, though several hospital notes report otherwise.

# Rib fractures: s/p recent fall on ice, confirmed with 
dedicated L rib x-rays here on ___. Would prefer to avoid 
opioids, however pt has a documented allergy to Tramadol for 
rash and confirmed rib fracture. Has oxycodone Rx from ___ 
which was filled.  
- Deferred additional oxycodone Rx at his request since he just 
had Rx filled  

# Hepatitis C: patient states he has Hepatitis C and "why isn't 
anyone treating me for that"
- offered to have him seen by hepatology team however patient 
refused and let AMA

# Hypertension: stable currently 
- Continue Lisinopril 20mg daily 

# Non-compliance: When asked why he left AMA states "I wanted to 
see my friend", not willing to elaborate. Attempted to review 
his medications with him, specifically anticoagulation with 
Eliquis. When asked how many times per day he takes it he states 
"once", however when reminded that it needs to be taken twice 
daily he states "yea twice, whatever". 
- Continue to stress the importance of taking medications as 
prescribed, specifically anticoagulation

# Homelessness: Reportedly told ED providers that he felt unsafe 
at his current shelter (___) and no longer wants to stay 
there. 

# Dispo: unclear, patient refused to say where he was going.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Lisinopril 20 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Naloxone Nasal Spray 4 mg IH ONCE MR1 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  Naloxone Nasal Spray 4 mg IH ONCE MR1  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial Fibrillation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
patient left AMA prior to full discharge instructions. I was 
able to give him a letter that stated "

Dear Mr. ___:

You are leaving again medical advice. Please do not take your 
metoprolol. Continue your apixaban (eliquis) twice a day. You 
would not wait for discharge instructions so I wanted to make 
sure you had some sort of paperwork. The EP team will be calling 
your listed phone # to schedule an outpatient ablation/possible 
pacemaker implant.

Sincerely,

___, NP
 
Followup Instructions:
___